US05627200
5-(2-(2(S)-Hydroxy-3-phenoxy-propylamino)ethoxy)-benzofuran-2-carboxylic acid, (2-methoxy-ethyl)-amide
A solution of methyl 5-(2-(2(S)-hydroxy-3-phenoxy-propyl-amino)ethoxy)benzofuran-2-carboxylic acid (0.10 g, 0.26 mmol) and 2-methoxyethyl-amine (0.6 mL) in methanol (3 mL) were maintained at reflux temperature for 18 h. The reaction solution was concentrated in vacuo and flash chromatographed on silica gel (5% methanol:chloroform) to afford the title compound as a colorless solid. (92 mg; m.p. 95°-96° C. Analytical calculated for C23H28N2O6.0.25H2O: C, 63.79; H, 6.63; N, 6.47. Found: C, 63.59; H, 6.39; N, 6.34.)

reactant | methyl 5-(2-(2(S)-hydroxy-3-phenoxy-propyl-amino)ethoxy)benzofuran-2-carboxylic acid | 0.26 mmol, 0.10 g | CC1=C(OC2=C1C=C(C=C2)OCCNC[C@@H](COC2=CC=CC=C2)O)C(=O)O | C21H23NO6
reactant | 2-methoxyethyl-amine | 0.6 mL | COCCN | C3H9NO
solvent | methanol | 3 mL | CO | CH4O
product | 5-(2-(2(S)-Hydroxy-3-phenoxy-propylamino)ethoxy)-benzofuran-2-carboxylic acid, (2-methoxy-ethyl)-amide | COCCNC(=O)C=1OC2=C(C1)C=C(C=C2)OCCNC[C@@H](COC2=CC=CC=C2)O | C23H28N2O6
